US07585885B2
5-(Difluorofuran-2-yl-methyl)-N-methyl-N-propyl-isophthalamic acid methyl ester
Under nitrogen and in a plastic vessel, dissolve nitrosonium tetrafluoroborate (84.8 μg, 0.72 mmol) and pyridinium poly(hydrogen fluoride) (70% hydrogen fluoride, 30% pyridine, 300 μL) in dichloromethane (2 mL) and cool to 0° C. Add dropwise 5-(2-furan-2-yl-[1,3]dithiolan-2-yl)-N-methyl-N-propyl-isophthalamic acid methyl ester in dichloromethane (1.5 mL) to the mixture, warm up to room temperature and stir for 2 h. Dilute the mixture with dichloromethane (20 mL) and filter the organic liquid though a pad of aluminum oxide and magnesium sulfate mixture. Concentrate the filtrate and purify (silica gel chromatography, 1:99 to 30:70 ethyl acetate:hexanes) to give the title compound (30%).

reactant | nitrosonium tetrafluoroborate | 0.72 mmol, 84.8 μg | F[B-](F)(F)F.N#[O+]
reactant | 5-(2-furan-2-yl-[1,3]dithiolan-2-yl)-N-methyl-N-propyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C1(SCCS1)C=1OC=CC1)=O | C20H23NO4S2
reactant | pyridinium poly(hydrogen fluoride) | 300 μL | C1=CC=NC=C1.F
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(Difluorofuran-2-yl-methyl)-N-methyl-N-propyl-isophthalamic acid methyl ester | 30% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C=1OC=CC1)(F)F)=O | C18H19F2NO4
